US04714492
1.5 g (0.019 mol) of 50% aqueous sodium hydroxide is added to a suspension of 2.9 g (0.0095 mol) ethyl 6-(4-chlorophenyl)-1,2-dimethyl-4-oxonicotinate in 75 ml of water. The mixture is refluxed and stirred for 15 min. and cooled to room temperature. The solution is extracted with methylene dichloride and the aqueous solution is acidified to pH 1 with 12N hydrochloric acid. The suspension formed is vacuum filtered and the filter cake is dried to afford 1.8 g (68% yield) of 6-(4-chlorophenyl)-1,2-dimethyl-4-oxonicotinic acid, mp 236°-238° C. dec.

reactant | sodium hydroxide | 0.019 mol, 1.5 g | [OH-].[Na+]
reactant | ethyl 6-(4-chlorophenyl)-1,2-dimethyl-4-oxonicotinate | 0.0095 mol, 2.9 g | ClC1=CC=C(C=C1)C=1N(C(=C(C(=O)OCC)C(C1)=O)C)C | C16H16ClNO3
solvent | water | 75 ml | O | H2O
product | 6-(4-chlorophenyl)-1,2-dimethyl-4-oxonicotinic acid | 1.8 g, 68% yield | ClC1=CC=C(C=C1)C=1N(C(=C(C(=O)O)C(C1)=O)C)C | C14H12ClNO3
